US08012956B2
1-ethylpiperidin-4-amine
Synthesized according to the method of reagent preparation 9 by using acetaldehyde and 1,1-dimethylethyl piperidin-4-ylcarbamate. MS (EI) for C7H16N2: 131 (MH+).

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | 1,1-dimethylethyl piperidin-4-ylcarbamate | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | 1-ethylpiperidin-4-amine | C(C)N1CCC(CC1)N | C7H16N2
